US04230712
B. 17-Cyano-3-methoxy-8β-methylmorphinan-6-one.
A rapidly stirred mixture of 8β,17-dimethyl-3-methoxymorphinan-6-one (free base; prepared in Part A) in chloroform (1.0 g/10 ml) containing 1.5 g finely powdered dry K2CO3 was treated dropwise with a solution of cyanogen bromide in chloroform (1.2 equivalents; 1.0 g/20 ml). The mixture was stirred rapidly for 30 minutes and then heated at reflux for an additional two hours. The solution was cooled, filtered, evaporated to dryness and azeotroped with alcohol. The crystalline, mp. 202°-205° C., product was obtained in 81% yield and was used without further pruification.

reactant | 8β,17-dimethyl-3-methoxymorphinan-6-one | C[C@H]1CC(C[C@]23C=4C=C(C=CC4C[C@H]([C@H]12)N(CC3)C)OC)=O | C19H25NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | N#CBr | CBrN
solvent | chloroform | 10 ml, 1.0 g | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml, 1.0 g, 1.2 equivalents | C(Cl)(Cl)Cl | CHCl3
product | 17-Cyano-3-methoxy-8β-methylmorphinan-6-one | 81% yield | C(#N)N1[C@H]2[C@@H]3[C@H](CC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)C | C19H22N2O2
